US07498460B2
Methyl 1-[2-{2-[4-(Biphenyl-4-ylmethoxy)phenoxy]ethoxy}-5-(methoxycarbonyl)-benzoyl]piperidine-4-carboxylate
Preparation takes place in analogy to Example 22 from methyl 1-[2-hydroxy-5-(methoxycarbonyl)benzoyl]piperidine-4-carboxylate and 4-{[4-(2-bromoethoxy)-phenoxy]methyl}biphenyl.

reactant | methyl 1-[2-hydroxy-5-(methoxycarbonyl)benzoyl]piperidine-4-carboxylate | OC1=C(C(=O)N2CCC(CC2)C(=O)OC)C=C(C=C1)C(=O)OC | C16H19NO6
reactant | 4-{[4-(2-bromoethoxy)-phenoxy]methyl}biphenyl | BrCCOC1=CC=C(OCC2=CC=C(C=C2)C2=CC=CC=C2)C=C1 | C21H19BrO2
product | Methyl 1-[2-{2-[4-(Biphenyl-4-ylmethoxy)phenoxy]ethoxy}-5-(methoxycarbonyl)-benzoyl]piperidine-4-carboxylate | C1(=CC=C(C=C1)COC1=CC=C(OCCOC2=C(C(=O)N3CCC(CC3)C(=O)OC)C=C(C=C2)C(=O)OC)C=C1)C1=CC=CC=C1 | C37H37NO8
